US06303789B1
A6. 4-Methoxy-3-(4-methoxytetrahydrofuran-3-yloxy)benzonitrile
1.0 g (4.2 mmol) of 3-(4-hydroxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile (A15) in 5 ml of dimethylformamide is added dropwise under a nitrogen atmosphere to a solution of 140 mg (4.6 mmol) of 80% strength sodium hydride in 5 ml of dimethylformamide and the mixture is heated at 60° C. for 20 min. 315 μl (5.0 mmol) of methyl iodide, dissolved in 1 ml of dimethylformamide, are then added dropwise at RT. The mixture is stirred at RT for 2 h, concentrated, treated with 20 ml of water and acidified with 2 N hydrochloric acid. After extraction with 3×30 ml of ethyl acetate, the combined organic phases are dried over magnesium sulfate, concentrated and the crude product is recrystallized from 10 ml of isopropanol. 760 mg of the title compound of m.p. 98-100° C. are obtained.

reactant | 3-(4-hydroxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile | 4.2 mmol, 1.0 g | OC1C(COC1)OC=1C=C(C#N)C=CC1OC | C12H13NO4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 5.0 mmol, 315 μl | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-Methoxy-3-(4-methoxytetrahydrofuran-3-yloxy)benzonitrile | 760 mg | COC1=C(C=C(C#N)C=C1)OC1COCC1OC | C13H15NO4
